* C:\Users\demo\Documents\Studium\ESE\WS23\Elektronik\Lab\Versuch02\Circuits\2_4_1_e.asc
VI N002 0 {V_I}
RE N003 0 {R_E}
Q§T1 N001 N002 N003 0 BC547B
RL P001 N001 {R_L}
VDD P001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\demo\Documents\LTspiceXVII\lib\cmp\standard.bjt
.step dec param R_L 1u 10k 10
.op .
.step param V_I list 2.5 5
.step param R_E list 100 200
.backanno
.end
