* C:\Users\demo\Documents\Studium\ESE\WS23\Elektronik\Lab\Versuch03\Circuits\3_3_1_e.asc
Vin VGS 0 PULSE(0 5 10m 1u 1m 10m 20m)
RD VDD Vo 200
VDD VDD 0 5V
M1 Vo VGS 0 0 IRFML8244
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\demo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 .025s 0s .00001s
.backanno
.end
